US09079902B2
1-Methyl-3-(Quinolin-5-yl)-N-(1,2,4-Thiadiazol-5-yl)-1H-Indole-6-Sulfonamide
The title compound was prepared in an analogous manner to that described in Example 28 using quinolin-5-ylboronic acid and 3-bromo-N-(2,4-dimethoxybenzyl)-1-methyl-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide, and the desired product, 1-methyl-3-(quinolin-5-yl)-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide, was isolated as an off-white solid. 1H NMR (500 MHz, DMSO-d6) δ ppm 3.99 (s, 3 H) 7.43-7.51 (m, 3 H) 7.64-7.68 (m, 1 H) 7.82-7.89 (m, 2 H) 8.01-8.05 (m, 2 H) 8.20 (s, 1 H) 8.33 (d, J=8.02 Hz, 1 H) 8.93 (dd, J=4.12, 1.60 Hz, 1 H). m/z (ESI) 421.1 (M+H)+.

reactant | quinolin-5-ylboronic acid | N1=CC=CC2=C(C=CC=C12)B(O)O | C9H8BNO2
reactant | 3-bromo-N-(2,4-dimethoxybenzyl)-1-methyl-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide | BrC1=CN(C2=CC(=CC=C12)S(=O)(=O)N(C1=NC=NS1)CC1=C(C=C(C=C1)OC)OC)C | C20H19BrN4O4S2
product | 1-methyl-3-(quinolin-5-yl)-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide | CN1C=C(C2=CC=C(C=C12)S(=O)(=O)NC1=NC=NS1)C1=C2C=CC=NC2=CC=C1 | C20H15N5O2S2
